2177-03-30 08:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-3-29**] 10:04 AM
 URINE CULTURE - At [**2177-3-29**] 10:04 AM
 EEG - At [**2177-3-29**] 10:40 AM
 LUMBAR PUNCTURE - At [**2177-3-29**] 01:26 PM
 MAGNETIC RESONANCE IMAGING - At [**2177-3-29**] 06:05 PM
   head
 FEVER - 102.0
F - [**2177-3-29**] 06:00 PM
   - mildly improved mental status
   - LP c/w infection & bleed
   - MRI performed, pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-3-29**] 03:30 PM
   Azithromycin - [**2177-3-29**] 03:59 PM
   Ceftriaxone - [**2177-3-30**] 02:00 AM
   Vancomycin - [**2177-3-30**] 07:34 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2177-3-29**] 03:59 PM
   Pantoprazole (Protonix) - [**2177-3-30**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-30**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.9
C (102
   Tcurrent: 36.1
C (97
   HR: 78 (78 - 109) bpm
   BP: 125/57(74) {125/57(74) - 163/88(107)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,764 mL
                                                                    612 mL
   PO:
             TF:
   IVF:
                                                                  1,764 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    425 mL
   Urine:
                                                                  1,395 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: elderly man, lying on bed, tachypneic
   HEENT: NCAT, EOMI, PERRL, oral mucosa moist
   NECK: no LAD, no JVD, no bruit
   CV: RRR, no mumurs, no gallops, no rubs
   RESP: breathing rapidly, CTA, no wheezes, no crackles, no rhonchi
   ABD: + BS, soft, non-distended, non-tender, no masses, no guarding or
   rebound
   PULSES: 2+radial B, 2+ PT/DP B
   EXT: no edema, no cyanosis, no clubbing
   SKIN : no rash, no ulceration, no erythema in decubiti
   NEURO: not responsive to [**Doctor Last Name **] rubs or loud verbal commands, does
   withdraws on painful stimuli, mild rigidity in upper extremities, 2+
   DTRs throughout
   [**Name2 (NI) 358**] / Radiology
   281 K/uL
   10.3 g/dL
   101 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   7 mg/dL
   98 mEq/L
   131 mEq/L
   29.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2177-3-25**]  01:45 AM
                             [**2177-3-25**]  09:00 AM
                             [**2177-3-29**]  01:21 AM
                             [**2177-3-29**]  07:31 AM
                             [**2177-3-29**]  08:52 AM
                             [**2177-3-29**]  04:40 PM
                             [**2177-3-30**]  03:57 AM
   WBC
   18.2
   19.9
   14.2
   Hct
   34.0
   33.8
   29.8
   Plt
   243
   273
   281
   Cr
   0.7
   0.7
   0.6
   0.6
   0.4
   TCO2
   25
   Glucose
   139
   128
   112
   136
   126
   101
   Other [**Year (4 digits) **]: PT / PTT / INR:12.0/25.5/1.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:85/69, Alk Phos / T Bili:91/1.0, Lactic Acid:0.9 mmol/L,
   Albumin:3.8 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 SUBDURAL HEMORRHAGE (SDH)
 ALCOHOL ABUSE
   76-year-old man with h/o EtOH abuse admitted for head bleed now with
   altered mental status, fevers, tachypnea.
   .
   # Tachypnea: with tachycardia. Concerning for PE, but chest CTA
   negative for PE on prelim read. No clear evidence of pneumonia. Might
   be an acute primary CNS process. Stable O2 sat on 4L NC.
   - supplemental oxygen as needed
   - treat altered mental status as below
   - if clinically worsens and can't maintain airways, will intubate
   .
   # Altered mental status: stable bleed, no obvious infection so far but
   LP has not been done. With fevers and leukocytosis. ?rigidity on exam,
   fevers, and altered mental status suggest neuroleptic malignant
   syndrome, but there is no apparent medication trigger. On citalopram,
   ?serotonin release syndrome, but no n/v/diarrhea. ?seizures or
   post-ictal. ?withdrawal. Hyponatremia does not help.
   - urgent neuro c/s
   - f/u final report of head CT
   - consider LP
   - empiric vanco, ceftriaxone 2gm q12h
   - check CK
   - check TSH
   - continue levetiracetam
   .
   # Fevers: unknown etiology. No clear infection but given MS changes,
   concerning for meningoencephalitis. ?NMS.
   - check CK as above
   - consider LP if MS not improving soon
   - empiric abx as above
   - f/u final reports of chest CT
   - f/u cx
   .
   # Head bleed:
   - continue levetiracetam
   - cont prednisone 5mg
   .
   # Hyponatremia: unclear etiology. ?SIADH from head trauma.
   - check urine/serum osm/lytes
   - if SIADH, will restrict fluid intake
   .
   # HTN: likely chronic
   - continue lisinopril po
   .
   # ETOH abuse: chronic.
   - CIWA
   - SW
   - cont folate, thiamine, b12
   .
   # DM
   - RISS
   .
   # Depression:
   - cont citalopram
   .
   # H/o prostate ca:
   - cont bicalutamide
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: p.o. diet as tolerated.
   #) Code Status: Full
   .
   #) Access: PIVs
   .
   # Contact: Health [**Name2 (NI) 151**] Proxy: :[**Doctor First Name 3353**] (daughter), ([**Telephone/Fax (1) 11850**]
   .
   #) Dispo: ICU

2177-03-31 04:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-3-29**] 10:04 AM
 URINE CULTURE - At [**2177-3-29**] 10:04 AM
 EEG - At [**2177-3-29**] 10:40 AM
 LUMBAR PUNCTURE - At [**2177-3-29**] 01:26 PM
 MAGNETIC RESONANCE IMAGING - At [**2177-3-29**] 06:05 PM
   head
 FEVER - 102.0
F - [**2177-3-29**] 06:00 PM
   - mental status continues to improve gradually, briefly agitated when
   awakens but no signs of withdrawal
   - CSF HSV PCR still pending, continuing acyclovir
   - MRI prelim read with ? venous sinus thrombosis (and known e/o bleed)
   - rec repeat MRI when able to hold still
   - febrile to 102
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-3-30**] 01:20 PM
   Acyclovir - [**2177-3-30**] 02:05 PM
   Azithromycin - [**2177-3-30**] 03:34 PM
   Vancomycin - [**2177-3-30**] 09:52 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-3-30**] 07:34 AM
   Labetalol - [**2177-3-30**] 09:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-31**] 03:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.9
C (102
   Tcurrent: 37.4
C (99.3
   HR: 88 (78 - 96) bpm
   BP: 150/70(89) {124/51(72) - 173/108(115)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,800 mL
                                                                     38 mL
   PO:
             TF:
   IVF:
                                                                  1,800 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    200 mL
   Urine:
                                                                  1,655 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    145 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GEN: elderly man, lying on bed, tachypneic
   HEENT: NCAT, EOMI, PERRL, oral mucosa moist
   NECK: no LAD, no JVD, no bruit
   CV: RRR, no mumurs, no gallops, no rubs
   RESP: breathing rapidly, CTA, no wheezes, no crackles, no rhonchi
   ABD: + BS, soft, non-distended, non-tender, no masses, no guarding or
   rebound
   PULSES: 2+radial B, 2+ PT/DP B
   EXT: no edema, no cyanosis, no clubbing
   SKIN : no rash, no ulceration, no erythema in decubiti
   NEURO: not responsive to [**Doctor Last Name **] rubs or loud verbal commands, does
   withdraws on painful stimuli, mild rigidity in upper extremities, 2+
   DTRs throughout
   [**Name2 (NI) 358**] / Radiology
   281 K/uL
   10.3 g/dL
   101 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   7 mg/dL
   98 mEq/L
   131 mEq/L
   29.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2177-3-25**]  01:45 AM
                             [**2177-3-25**]  09:00 AM
                             [**2177-3-29**]  01:21 AM
                             [**2177-3-29**]  07:31 AM
                             [**2177-3-29**]  08:52 AM
                             [**2177-3-29**]  04:40 PM
                             [**2177-3-30**]  03:57 AM
   WBC
   18.2
   19.9
   14.2
   Hct
   34.0
   33.8
   29.8
   Plt
   243
   273
   281
   Cr
   0.7
   0.7
   0.6
   0.6
   0.4
   TCO2
   25
   Glucose
   139
   128
   112
   136
   126
   101
   Other [**Year (4 digits) **]: PT / PTT / INR:12.0/25.5/1.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:85/69, Alk Phos / T Bili:91/1.0, Lactic Acid:0.9 mmol/L,
   Albumin:3.8 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 SUBDURAL HEMORRHAGE (SDH)
 ALCOHOL ABUSE
   76-year-old man with h/o EtOH abuse admitted for head bleed now with
   altered mental status, fevers, tachypnea.
   .
   # Tachypnea:  respiratory status much improved now, RR decreased.
   Concerning for PE, but chest CTA negative for PE on prelim read. No
   clear evidence of pneumonia..
   - supplemental oxygen as needed
   - treat altered mental status as below
   .
   # Altered mental status: Improving, able to follow commands.  Likely
   related to recent head bleed, possible had a seizure and slowly
   post-ictal. LP with possible bacterial or viral meningitis, treating
   empirically, although odd to develop CNS infection in the hospital.  No
   evidence of seizures.  MRI read pending.  TSH normal.
   - f/u neuro recs
   - f/u MRI read
   - f/u CSF studies including HSV
   - continue vanc/ceftriaxone/azithro and acyclovir
   - continue levetiracetam
   .
   # Fevers: unknown etiology. No clear infection but given MS changes,
   concerning for meningoencephalitis. ?NMS.
   - empiric abx as above
   - f/u cx
   .
   # Head bleed:
   - continue levetiracetam
   - cont prednisone 5mg
   .
   # Hyponatremia: improved.  Likely SIADH from head trauma.
   - fluid restriction if/when PO
   - continue meds in NS instead of D5
   .
   # HTN: likely chronic
   - continue lisinopril po
   .
   # ETOH abuse: chronic.
   - CIWA
   - SW
   - cont folate, thiamine, b12
   .
   # DM
   - RISS
   .
   # Depression:
   - cont citalopram
   .
   # H/o prostate ca:
   - cont bicalutamide
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: p.o. diet as tolerated.
   #) Code Status: Full
   .
   #) Access: PIVs, would need central access if current PIVs blow
   .
   # Contact: Health [**Name2 (NI) 151**] Proxy: :[**Doctor First Name 3353**] (daughter), ([**Telephone/Fax (1) 11850**]
   .
   #) Dispo: ICU

2177-03-31 11:31:00 Physician Attending Progress Note
Chief Complaint: decreased MS.
   HPI:
   76 yo man with ETOH abuse, found down drunk in street.  Found to have
   ICH - subdural, subarachnoid, and intraparenchymal, and
   intraventricular.  Was admitted to SICU, and went to floor
   subsequently.  Got more obtunded, fever, tachycardia - transferred to
   medicine. CT stable, negative CTA for PE.  Tranferred to MICU on Friday
   night.  Neuro EEG was ruled out for seizure.  LP done - with blood and
   WBC.  started on acyclovir, vanco, CTX.   Yesterday MS improved
   gradually.  Was febrile last night.
   24 Hour Events:
 FEVER - 102.0
F - [**2177-3-30**] 05:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-3-30**] 02:05 PM
   Azithromycin - [**2177-3-30**] 03:34 PM
   Vancomycin - [**2177-3-30**] 09:52 PM
   Ceftriaxone - [**2177-3-31**] 02:16 AM
   Infusions:
   Other ICU medications:
   Other medications:
   SSI
   thaimine
   folate
   Protonix
   hydrocort
   lisinopril
   Vit B12
   celexa
   labetolol
   keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-31**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.9
C (102
   Tcurrent: 36.7
C (98
   HR: 89 (80 - 96) bpm
   BP: 163/72(93) {130/56(75) - 173/108(115)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,800 mL
                                                                    310 mL
   PO:
             TF:
   IVF:
                                                                  1,800 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                  1,135 mL
   Urine:
                                                                  1,655 mL
                                                                  1,130 mL
   NG:
   5 mL
   Stool:
   Drains:
   Balance:
                                                                    145 mL
                                                                   -825 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, arousable, follows commands
   intermittently
   [**Year (2 digits) 358**] / Radiology
   10.4 g/dL
   348 K/uL
   95 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   7 mg/dL
   96 mEq/L
   128 mEq/L
   30.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2177-3-25**]  01:45 AM
                             [**2177-3-25**]  09:00 AM
                             [**2177-3-29**]  01:21 AM
                             [**2177-3-29**]  07:31 AM
                             [**2177-3-29**]  08:52 AM
                             [**2177-3-29**]  04:40 PM
                             [**2177-3-30**]  03:57 AM
                             [**2177-3-31**]  04:00 AM
   WBC
   18.2
   19.9
   14.2
   13.6
   Hct
   34.0
   33.8
   29.8
   30.1
   Plt
   243
   273
   281
   348
   Cr
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   TCO2
   25
   Glucose
   139
   128
   112
   136
   126
   101
   95
   Other [**Year (4 digits) **]: PT / PTT / INR:12.0/25.5/1.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:85/69, Alk Phos / T Bili:91/1.0, Lactic Acid:0.9 mmol/L,
   Albumin:3.8 g/dL, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Delirium/altered MS:  Likely multifactorial from brain injury, ?mild
   ETOH withdrawl.  Doubt NMS or serotonin syndrome.  Continue antibiotics
   for HSV encephalitis.
   Can stop vanco/ctx as no evidence of PNA or meningitis.
   hyponatremia:  due to SIADH with high urine osm - fluid restrict.
   prostate CA:  on hormonal therapy.
   ETOH withdrawl:  is almost  out of window given 7 days of
   hospitalization.  Continue CIWA.
   HTN:  likely chronic
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-3-29**] 01:01 AM
   20 Gauge - [**2177-3-29**] 08:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-04-01 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MS not improving
   - repeat brain MRI ordered to r/o sinus thrombosis
   - 24-hr EEG ordered per neuro recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2177-3-30**] 03:34 PM
   Ceftriaxone - [**2177-3-31**] 02:16 AM
   Vancomycin - [**2177-3-31**] 09:00 AM
   Acyclovir - [**2177-4-1**] 02:00 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2177-3-31**] 12:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-1**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 97 (75 - 100) bpm
   BP: 154/82(99) {124/54(70) - 163/82(99)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,118 mL
                                                                    353 mL
   PO:
             TF:
                                                                     98 mL
                                                                    180 mL
   IVF:
                                                                    790 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    410 mL
   Urine:
                                                                  2,070 mL
                                                                    410 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -957 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GEN: elderly man, lying on bed, tachypneic
   HEENT: NCAT, EOMI, PERRL, oral mucosa moist
   NECK: no LAD, no JVD, no bruit
   CV: RRR, no mumurs, no gallops, no rubs
   RESP: breathing rapidly, CTA, no wheezes, no crackles, no rhonchi
   ABD: + BS, soft, non-distended, non-tender, no masses, no guarding or
   rebound
   PULSES: 2+radial B, 2+ PT/DP B
   EXT: no edema, no cyanosis, no clubbing
   SKIN : no rash, no ulceration, no erythema in decubiti
   NEURO: moving all extremities, not answering questions
   Labs / Radiology
   426 K/uL
   10.4 g/dL
   125 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   7 mg/dL
   95 mEq/L
   128 mEq/L
   30.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2177-3-25**]  01:45 AM
                             [**2177-3-25**]  09:00 AM
                             [**2177-3-29**]  01:21 AM
                             [**2177-3-29**]  07:31 AM
                             [**2177-3-29**]  08:52 AM
                             [**2177-3-29**]  04:40 PM
                             [**2177-3-30**]  03:57 AM
                             [**2177-3-31**]  04:00 AM
                             [**2177-4-1**]  03:47 AM
   WBC
   18.2
   19.9
   14.2
   13.6
   11.1
   Hct
   34.0
   33.8
   29.8
   30.1
   30.2
   Plt
   243
   273
   281
   348
   426
   Cr
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   0.6
   TCO2
   25
   Glucose
   139
   128
   112
   136
   126
   101
   95
   125
   Other labs: PT / PTT / INR:12.0/25.5/1.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:85/69, Alk Phos / T Bili:91/1.0, Lactic Acid:0.9 mmol/L,
   Albumin:3.8 g/dL, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 SUBDURAL HEMORRHAGE (SDH)
 ALCOHOL ABUSE
   76-year-old man with h/o EtOH abuse admitted for head bleed now with
   altered mental status, fevers, tachypnea.
   # Altered mental status: LP without microorganisms, awaiting HSV PCR.
   Given fever could be infectious (aspiration pna, sinusitis), or ETOH
   withdrawal.  EEG prelim negative.
   -MS improving currently so will treat infection and continue to monitor
   - f/u neuro recs
   - continue levetiracetam
   # Fevers: culture when he spikes and repeat  a CXR, possibly infectious
   vs. withdrawal, continue to monitor
   -d/c empiric abx with the exception of acyclovir
   # Head bleed:
   - continue levetiracetam
   - cont prednisone 5mg
   # Hyponatremia: improved.  Likely SIADH from head trauma.
   - fluid restriction if/when PO
   - continue meds in NS instead of D5
   -monitor
   # HTN: likely chronic
   - continue lisinopril po
   # ETOH abuse: chronic.
   - CIWA
   - SW
   - cont folate, thiamine, b12
   # DM
   - RISS
   # Depression:
   - cont citalopram
   # H/o prostate ca:
   - cont bicalutamide
   #) Prophylaxis: PPI, no sc heparin given head bleed, bowel regimen
   #) FEN: head of bed elevation and tube feeds (initiate today, nutrition
   consult)
   #) Code Status: Full
   #) Access: [**Last Name (LF) 3092**], [**First Name3 (LF) **] need PICC tomorrow [**4-1**]
   # Contact: Health [**Name2 (NI) 151**] Proxy: :[**Doctor First Name 3353**] (daughter), ([**Telephone/Fax (1) 11850**]
   #) Dispo: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2177-3-31**] 05:30 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-3-31**] 04:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-04-01 11:18:00 Physician Attending Progress Note
Chief Complaint: altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Admitted w/ altered MS.
   24 Hour Events:
                              Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2177-3-30**] 03:34 PM
   Ceftriaxone - [**2177-3-31**] 02:16 AM
   Vancomycin - [**2177-3-31**] 09:00 AM
   Acyclovir - [**2177-4-1**] 10:52 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2177-3-31**] 12:11 PM
   Other medications:
   RISS, hydrocort 20 q24, Lisinopril, Bicalutamide (held), vit B12,
   Celexa, Acycvlovir, Keppra, Protonix, thiamine, folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-1**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 100 (75 - 100) bpm
   BP: 171/79(100) {124/54(70) - 171/82(100)} mmHg
   RR: 19 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,118 mL
                                                                    763 mL
   PO:
             TF:
                                                                     98 mL
                                                                    291 mL
   IVF:
                                                                    790 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    710 mL
   Urine:
                                                                  2,070 mL
                                                                    710 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -957 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   426 K/uL
   125 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   7 mg/dL
   95 mEq/L
   128 mEq/L
   30.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2177-3-25**]  01:45 AM
                             [**2177-3-25**]  09:00 AM
                             [**2177-3-29**]  01:21 AM
                             [**2177-3-29**]  07:31 AM
                             [**2177-3-29**]  08:52 AM
                             [**2177-3-29**]  04:40 PM
                             [**2177-3-30**]  03:57 AM
                             [**2177-3-31**]  04:00 AM
                             [**2177-4-1**]  03:47 AM
   WBC
   18.2
   19.9
   14.2
   13.6
   11.1
   Hct
   34.0
   33.8
   29.8
   30.1
   30.2
   Plt
   243
   273
   281
   348
   426
   Cr
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   0.6
   TCO2
   25
   Glucose
   139
   128
   112
   136
   126
   101
   95
   125
   Other labs: PT / PTT / INR:12.0/25.5/1.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:85/69, Alk Phos / T Bili:91/1.0, Lactic Acid:0.9 mmol/L,
   Albumin:3.8 g/dL, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: EEG today- pending
   Assessment and Plan
   Delirium/altered MS:  Likely multifactorial from brain injury, ?mild
   ETOH withdrawl.  Doubt NMS or serotonin syndrome.  Continue antibiotics
   for HSV encephalitis.
   -EEG today per Neuro
   -f/u Keppra level
   Hyponatremia:  due to SIADH with high urine osm
   -fluid restrict.
   Prostate CA:  on hormonal therapy.
   ETOH withdrawl:  is almost  out of window given 7 days of
   hospitalization.  Continue CIWA.
   HTN:  likely chronic
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2177-3-31**] 05:30 PM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2177-3-31**] 04:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   76 yo man admitted s/p multiple falls, SDH, SAH, IPH.  MS slightly
   better today.  Opens eye to voice.  Answers some questions yes/no.
   Exam notable for b/l rhonchi.  CV reg;  abd: soft
   A/P
   Delirium:  likely multifactorial from brain injury, toxic-metabolic.
   Slightly better today.
   Hyponatremia:  SIADH.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2177-4-1**] 15:50 ------